US07304058B2
(trans)-[4-Methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-carbamic acid 4-hydroxy-cyclohexyl ester
4-Methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-ylamine (69 mg, 0.26 mmol) is first reacted with phenyl chloroformate as described for (4-methoxy-7-phenyl-benzothiazol-2-yl)-carbamic acid benzyl ester in WO01/97786 and then with N-ethyl-diisopropylamine (0.090 ml, 0.52 mmol) and (trans)-cyclohexane-1,4-diol (60 mg, 0.52 mmol) in dimethyl sulfoxide (10 ml) at 50° C. for 2 h. Then 100 ml dichoromethane are added, the mixture is extracted with saturated aqueous sodium carbonate and the organic phase is dried and evaporated. Flash-chromatographic purification (silica, eluting with dichloromethane/methanol) yielded the title compound as white solid (7% yield). MS: m/e=407(M+H+), mp 282-284° C. Following the general method of example 1 the compounds of examples 2 to 11 were prepared.

reactant | 4-Methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-ylamine | 0.26 mmol, 69 mg | COC1=CC=C(C2=C1N=C(S2)N)C2CCOCC2 | C13H16N2O2S
reactant | phenyl chloroformate | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | (4-methoxy-7-phenyl-benzothiazol-2-yl)-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC=1SC2=C(N1)C(=CC=C2C2=CC=CC=C2)OC)=O | C22H18N2O3S
reactant | N-ethyl-diisopropylamine | 0.52 mmol, 0.090 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | (trans)-cyclohexane-1,4-diol | 0.52 mmol, 60 mg | [C@H]1(CC[C@H](CC1)O)O | C6H12O2
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | dichoromethane | 100 ml | ClCCl | CH2Cl2
product | (trans)-[4-Methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-carbamic acid 4-hydroxy-cyclohexyl ester | 7% yield | O[C@@H]1CC[C@H](CC1)OC(NC=1SC2=C(N1)C(=CC=C2C2CCOCC2)OC)=O | C20H26N2O5S
